US07420083B2
This compound was produced using similar methods as those used in Step 5, example 27, starting with 2-bromo-4-bromomethyl-benzoic acid methyl ester (0.40 g, 1.30 mmol), 4-tert-butyl-benzaldehyde oxime (0.24 g, 1.36 mmol) and cesium carbonate (1.69 g, 5.20 mmol) in acetone (50 mL). The crude material was purified by flash chromatography through silica gel using ethyl acetate/hexanes (0/100 gradient to 6/94) to give 2-bromo-4-[({[(1E)-(4-tert-butylphenyl)methylidene]amino}oxy)methyl]benzoic acid methyl ester (0.43 g, 83%) as a clear, colorless oil. 1H NMR (400 MHz, CDCl3); δ 8.13 (s, 1H), 7.78 (d, 1H), 7.69 (s, 1H), 7.49 (d, 2H), 7.39-7.36 (m, 3H), 5.18 (s, 2H), 3.92 (s, 3H), 1.32 (s, 9H).

reactant | 2-bromo-4-bromomethyl-benzoic acid methyl ester | 1.30 mmol, 0.40 g | COC(C1=C(C=C(C=C1)CBr)Br)=O | C9H8Br2O2
reactant | 4-tert-butyl-benzaldehyde oxime | 1.36 mmol, 0.24 g | C(C)(C)(C)C1=CC=C(C=NO)C=C1 | C11H15NO
reactant | cesium carbonate | 5.20 mmol, 1.69 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 2-bromo-4-[({[(1E)-(4-tert-butylphenyl)methylidene]amino}oxy)methyl]benzoic acid methyl ester | 0.43 g, 83% | COC(C1=C(C=C(C=C1)CO/N=C/C1=CC=C(C=C1)C(C)(C)C)Br)=O | C20H22BrNO3
